US05854227
3-Hydroxy-3,3-diphosphonopropanoic acid, tetramethyl ester is converted to 3-(tert-butoxycarbonyloxy)-3,3-bis(diethoxyphosphono)propionic acid and then to 3-(tert-butoxycarbonyloxy)-3,3-bis(diethoxyphosphono)propanoyl chloride. The acid chloride is then added to α-(Z-methoxyimino)-α-(2-aminothiazol-4-yl)-acetic acid and pyridine to form α-(Z-methoxyimino)-α-{2-[3-(tert-butoxycarbonyloxy)-3,3-bis(diethoxyphosphono)-propanoyl-amino]-thiazol-4-yl}-acetic acid. The latter is reacted with oxaloyl chloride to form the acid chloride, α-(Z-methoxyimino)-α-{2-[3-(tert-butoxycarbonyloxy)-3,3-bis(diethoxyphosphono)-propanoyl-amino)-thiazol-4-yl]-acetyl chloride. This acid chloride is reacted with 7β-amino-3-acetoxymethyl-3-cephem-4-carboxylic acid and pyridine and gives 7β-{α-(Z-methoxyimino)-α-[2-(3-tert-butoxycarbonyloxy)-3,3-bis(diethoxyphosphono)propanoyl-amino)-thiazol-4-yl]-acetamido}-3-acetoxymethyl-3-cephem-4-carboxylic acid. Deprotection with trifluoroacetic acid and anisole yields the title compound.

reactant | 7β-amino-3-acetoxymethyl-3-cephem-4-carboxylic acid | N[C@H]1[C@@H]2N(C(=C(CS2)COC(C)=O)C(=O)O)C1=O | C10H12N2O5S
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 3-acetoxymethyl-3-cephem-4-carboxylic acid | C(C)(=O)OCC=1CS[C@H]2N(C1C(=O)O)C(C2)=O | C10H11NO5S
